US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine (Compound 18)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(4-acetylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 90%). 1H NMR (200 MHz, CDCl3): δ 2.54 (s, 3H), 3.42-3.48 (m, 4H), 3.79 (s, 3H), 4.14 (s, 4H), 6.89 (d, J=9.0 Hz, 2H), 7.10-7.50 (m, 3H), 7.69-7.80 (m, 1H), 7.91 (d, J=7.8 Hz, 2H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(4-acetylphenyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine | 90% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C22H22FN5O3
